US04734430
To an ice-cold solution of 13.9 ml of diisopropylamine in 50 ml of anhydrous tetrahydrofuran there was added, by syringe, 38 ml of 2.6 N butyllithium in hexane. The mixture was cooled to -78° C. and a solution of 4.5 grams of 1,5,6,7-tetrahydro-3-methyl-4H-indazol-4-one was added dropwise. The mixture was stirred at -78° C. for 30 minutes and a solution of 10 ml of ethyl formate in 30 ml of anhydrous tetrahydrofuran was added dropwise. When the addition was complete, the reaction was allowed to warm to 0° C. and it was quenched by the dropwise addition of water (200 ml). After the mixture was stirred vigorously for a few minutes, the two layers which formed were separated. The aqueous layer was washed with ethyl ether and then acidified to a pH of about 4 with 5 N hydrochloric acid. The slurry which formed was extracted several times with dichloromethane and the combined extracts were dried and concentrated under reduced pressure to give 1,5,6,7-tetrahydro-5-hydroxymethylene-3-methyl-4H-indazol-4-one as a clammy yellow semi-solid.

reactant | diisopropylamine | 13.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 2.6 N, 38 ml | C(CCC)[Li]
reactant | 1,5,6,7-tetrahydro-3-methyl-4H-indazol-4-one | 4.5 grams | CC1=NNC=2CCCC(C12)=O | C8H10N2O
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1,5,6,7-tetrahydro-5-hydroxymethylene-3-methyl-4H-indazol-4-one | OC=C1C(C=2C(=NNC2CC1)C)=O | C9H10N2O2
